US08809369B2
A mixture solution of 2-(3-bromo-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-7-carboxylic acid methyl ester (11.2 g, 30.0 mmol), morpholine (26.0 mL, 294.0 mmol), copper(I) iodide (3.4 g, 18.0 mmol), N,N-dimethylglycine hydrochloride (3.4 g, 24.0 mmol), and potassium carbonate (12.4 g, 90.0 mmol) in dimethyl sulfoxide (65 mL) was stirred at 120° C. for 16 h. Then the reaction mixture was cooled to room temperature. The reaction mixture was extracted with ethyl acetate (200 mL×2), washed with saturated aqueous ammonium chloride solution (50 mL×3) and brine (50 mL×2), dried over anhydrous sodium sulfate and then concentrated in vacuo and the residue was purified by ISCO combi-flash chromatography (gradient elution, 30-50% ethyl acetate in petroleum ether) to afford 4,4-dimethyl-2-(3-morpholin-4-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-7-carboxylic acid methyl ester (9.1 g, 80%) as a white solid: MS (ESI) M+1=381.0.

reactant | 2-(3-bromo-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-7-carboxylic acid methyl ester | 30.0 mmol, 11.2 g | COC(=O)C1=CC=C2C(CC(NC2=C1)C1=CC(=CC=C1)Br)(C)C | C19H20BrNO2
reactant | morpholine | 294.0 mmol, 26.0 mL | N1CCOCC1 | C4H9NO
reactant | N,N-dimethylglycine hydrochloride | 24.0 mmol, 3.4 g | Cl.CN(CC(=O)O)C
reactant | potassium carbonate | 90.0 mmol, 12.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 65 mL | CS(=O)C | C2H6OS
catalyst | copper(I) iodide | 18.0 mmol, 3.4 g | [Cu]I
product | 4,4-dimethyl-2-(3-morpholin-4-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-7-carboxylic acid methyl ester | 9.1 g, 80% | COC(=O)C1=CC=C2C(CC(NC2=C1)C1=CC(=CC=C1)N1CCOCC1)(C)C | C23H28N2O3
